US08809538B2
2-amino-6-chloro-5-nitronicotinic Acid
2-Amino-6-chloronicotinic acid (0.479 g) [Helvetica Chimica Acta (1976), 59(1), 222-9] was dissolved in concentrated sulfuric acid (5 mL) and cooled in an ice-saltwater bath and 2.5 mL of fuming nitric acid was then added dropwise with stirring. The ice bath was removed and the reaction mixture was stirred at ambient temperature for 8 hours. The mixture was then added dropwise to a saturated sodium bicarbonate solution (200 mL). The mixture was acidified with 9M aqueous sulfuric acid to pH 2. The solid that formed was filtered and rinsed with water to obtain the title compound (0.340 g) having the following physical data.

reactant | 2-Amino-6-chloronicotinic acid | 0.479 g | NC1=C(C(=O)O)C=CC(=N1)Cl | C6H5ClN2O2
reactant | nitric acid | 2.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 5 mL | S(O)(O)(=O)=O | H2O4S
product | 2-amino-6-chloro-5-nitronicotinic Acid | 0.340 g | NC1=C(C(=O)O)C=C(C(=N1)Cl)[N+](=O)[O-] | C6H4ClN3O4
